US06953857B2
(i) 3-Hydroxy-4,5-dimethoxy-benzoic acid methyl ester
5 g (27.2 mmol) of 3-Hydroxy-4,5-dimethoxy-benzoic acid was added at 0° C. to 100 ml of a saturated solution of HCl in MeOH. The solution was stirred for 16 h at RT. The solvent was removed under reduced pressure. The residue was chromatographed on silica gel eluting with ethyl acetate/n-heptane (2/1).

reactant | 3-Hydroxy-4,5-dimethoxy-benzoic acid | 27.2 mmol, 5 g | OC=1C=C(C(=O)O)C=C(C1OC)OC | C9H10O5
reactant | HCl | Cl | ClH
reactant | MeOH | CO | CH4O
product | 3-Hydroxy-4,5-dimethoxy-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)OC)O)=O | C10H12O5
